US08623520B2
23.4 g of 3-methoxy[1,1′:2′,1″]terphenyl, 146 g of iron (III) chloride and 200 mL of methylene chloride were placed in a flask, and stirred for one hour while deaerating with argon. The reaction solution was subjected to filtration, followed by washing with an excessive amount of acetone. The resulting solid was dissolved in heated toluene. Insoluble substances were filtered out, followed by crystallization with cooling. The resulting crystal was collected by filtration to obtain 13.9 g (yield: 60%) of 2-methoxytriphenylene.

reactant | 3-methoxy[1,1′:2′,1″]terphenyl | 23.4 g | COC=1C=C(C=CC1)C=1C(=CC=CC1)C1=CC=CC=C1 | C19H16O
catalyst | iron (III) chloride | 146 g | [Fe](Cl)(Cl)Cl
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 2-methoxytriphenylene | 13.9 g, yield: 60% | COC1=CC=2C3=CC=CC=C3C3=CC=CC=C3C2C=C1 | C19H14O
